US04837349
Methyl N-(t-butyldimethylsilyloxycarbonyl)-2-amino-4-pentenoate
To a methylene chloride solution (1.5 ml) of N-(t-butoxycarbonyl)-allylglycine methyl ester (183 mg, 0.8 mmol) and 2,6-lutidine (0.186 ml, 1.6 mmol) was added t-butyldimethylsilyltrifluoromethane sulfonate (TBDMSOTf) (0.275 ml, 1.2 mmol) at room temperature in a nitrogen atmosphere. After the mixture was stirred for 15 minutes, a saturated aqueous solution of ammonium chloride (3 ml) was added to quench the reaction and extraction with ether was conducted. The organic layer was dried over anhydrous magnesium sulfate and filtered. By distilling off the solvent under vacuum, the titled compound was obtained in an amount of 260 mg.

reactant | N-(t-butoxycarbonyl)-allylglycine methyl ester | 0.8 mmol, 183 mg | COC(CN(C(=O)OC(C)(C)C)CC=C)=O | C11H19NO4
reactant | 2,6-lutidine | 1.6 mmol, 0.186 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | t-butyldimethylsilyltrifluoromethane sulfonate | 1.2 mmol, 0.275 ml | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | Methyl N-(t-butyldimethylsilyloxycarbonyl)-2-amino-4-pentenoate | [Si](C)(C)(C(C)(C)C)OC(=O)NC(C(=O)OC)CC=C | C13H25NO4Si
